US07582638B2
Heat to reflux a solution of 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile (60 g, 487.2 mmol) and p-tolyl-hydrazine hydrochloride (78 g, 478.2 mmol) in ethanol (975 mL) for 4 hours. Evaporate the solvent and dissolve the remaining solid in water. Increase pH of the solution to pH 8 using a 1.0 N solution of sodium hydroxide. Filter the precipitate to obtain 5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine as a white solid. 1H NMR (DMSO): 7.39 (d, J=8 Hz, 2H), 7.22 (d, J=8 Hz, 2H), 5.12 (s, 2H), 2.31 (s, 3H), 1.30 (s, 3H), 0.80 (q, J=4 Hz, 2H), 0.61 (q, J=4 Hz, 2H).

reactant | 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile | 487.2 mmol, 60 g | CC1(CC1)C(CC#N)=O | C7H9NO
reactant | p-tolyl-hydrazine hydrochloride | 478.2 mmol, 78 g | Cl.C1(=CC=C(C=C1)NN)C
solvent | ethanol | 975 mL | C(C)O | C2H6O
product | 5-(1-methyl-cyclopropyl)-2-p-tolyl-2H-pyrazol-3-ylamine | CC1(CC1)C=1C=C(N(N1)C1=CC=C(C=C1)C)N | C14H17N3
